US04983596
To a solution of allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-(t-butyldimethylsilyloxy)ethyl}-4-oxoazetidine-2-yl]-3-oxopentanoate (13.5 g) in ethyl acetate (65 ml) was added rhodium(II) octanoate (50 mg) under refluxing in a stream of nitrogen. After 20 minutes, rhodium(II) octanoate (50 mg) was added to the mixture at the same condition. The mixture was refluxed for 30 minutes and concentrated under reduced pressure to give a syrup. The syrup was dissolved in acetonitrile (65 ml) and cooled at 0°-5° C. under atmosphere of nitrogen. To the solution was added diphenyl phosphorochloride (7.52 ml) and N,N-diisopropyl-N-ethylamine (6.31 ml) successively and the mixture was stirred at the same condition for 18 hours (solution A). To a solution of (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(2-hydroxyethyloxymethyl)pyrrolidine (10.7 g) in acetonitrile (40.5 ml) was added a 28% solution (6.92 ml) of sodium methoxide in methanol at -10°~0° C. in a stream of nitrogen and the mixture was stirred at the same condition (solution B). To the solution A was added the solution B at -10°~0° C. in a stream of nitrogen and the mixture was stirred at -10~0° C. for one hour and then at 10°-20° C. for 3 hours. Ethyl acetate (200 ml) was added to the mixture and the mixture was washed with water (200 ml×3), dried over magnesium sulfate, and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (300 g) and eluted with ethyl acetate to give allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-hydroxyethyloxymethyl)pyrrolidin-4-yl]thio-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-methyl- 7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (8.80 g).

reactant | allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-(t-butyldimethylsilyloxy)ethyl}-4-oxoazetidine-2-yl]-3-oxopentanoate | 13.5 g | [N+](=[N-])=C(C(=O)OCC=C)C([C@H](C)[C@H]1NC([C@@H]1[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)=O | C19H31N3O5Si
reactant | N,N-diisopropyl-N-ethylamine | 6.31 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(2-hydroxyethyloxymethyl)pyrrolidine | 10.7 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)COCCO | C13H21NO5S
reactant | sodium methoxide | C[O-].[Na+]
solvent | ethyl acetate | 65 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 65 ml | C(C)#N | C2H3N
solvent | acetonitrile | 40.5 ml | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
catalyst | rhodium(II) octanoate | 50 mg | C(CCCCCCC)(=O)[O-].[Rh+2].C(CCCCCCC)(=O)[O-]
catalyst | rhodium(II) octanoate | 50 mg | C(CCCCCCC)(=O)[O-].[Rh+2].C(CCCCCCC)(=O)[O-]
solvent | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-hydroxyethyloxymethyl)pyrrolidin-4-yl]thio-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-methyl- 7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 8.80 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC=C)COCCO | C30H48N2O8SSi
